US08217185B2
At room temp., a piperidinium acetate solution, freshly prepared by mixing piperidine (35.0 μL, 0.354 mmol) and acetic acid (19.0 μL, 0.332 mmol) in dimethyl sulfoxide (1.00 mL), was injected into a stirred solution of the prepared hept-5-ynal (1.50 g, 13.6 mmol) and malonic acid (2.83 g, 27.2 mmol) in dimethyl sulfoxide (50 mL). After refluxing the reaction mixture for 4 h, water (10 mL) and ether (20 mL) were added at room temp., and the layers were separated. The aqueous layer was extracted with ether (3×25 mL), and the combined organic extracts were washed with water (25 mL), dried (Na2SO4), and concentrated under reduced pressure. Kugelrohr distillation at 149° C./14 mbar furnished (3E)-non-3-en-7-ynoic acid (902 mg, 44%) as colorless crystals (mp 43-45° C.).

reactant | piperidinium acetate | C(C)(=O)[O-].[NH2+]1CCCCC1
reactant | hept-5-ynal | 13.6 mmol, 1.50 g | C(CCCC#CC)=O | C7H10O
reactant | malonic acid | 27.2 mmol, 2.83 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | water | 10 mL | O | H2O
solvent | dimethyl sulfoxide | 1.00 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
catalyst | piperidine | 0.354 mmol, 35.0 μL | N1CCCCC1 | C5H11N
catalyst | acetic acid | 0.332 mmol, 19.0 μL | C(C)(=O)O | C2H4O2
solvent | ether | 20 mL | CCOCC | C4H10O
product | (3E)-non-3-en-7-ynoic acid | 902 mg, 44% | C(C\C=C\CCC#CC)(=O)O | C9H12O2
